Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]=[O:4].[O:1]([C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[H:5],1.8892087116
[O:1][C:2](=[C:3]=[O:4])[C:5]#[C:6][H:7]>>[C:5]#[C:6][H:7].[O:1][C:2]#[C:3][O:4],6.12455160228
[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.0843977024
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:11][H:12],1.90687446464
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2].[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],6.16976980951
[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.01579229331
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.30873969712
[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:12]([H:13])([H:14])[H:15],6.49181588854
[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-3.80623441348
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])=[O:8].[H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-3.4849382308
[C:1]=[O:2].[C:3]#[C:4][O:5][C:6][H:7]>>[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7],1.1695908361
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[O:11][H:12].[H:8],4.99937011375
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],0.020233110461
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.50071863341
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],1.30630511067
[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-2.52177107557
[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:3][C:4]([H:5])([H:6])[H:7],7.79337817
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.18623860028
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.545959257439
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1],4.32824464775
[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],4.845272266219999
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],2.83965206384
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],4.645072701419999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9],4.65274120401
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:14]([H:15])[H:16],1.84582405922
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10].[H:1][C:2],10.593702112699999
[H:7].[O:1][O:2][C:3]([C:4]([H:5])=[C:6])=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10],-4.07766873616
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-7.226352041760001
[H:1][C:2]#[C:3]/[C:7](=[C:4]/[O:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[C:4]([O:5][H:6])=[C:7]1[C:8]([H:9])([H:10])[H:11],0.51351568035
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],3.7388596121699993
